US07157487B2
(Step 7) Synthesis of 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoic acid
To a solution of methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate (312 mg, 0.486 mmol) in THF (20 ml) was added 0.25N NaOH (20 ml). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was then concentrated under reduced pressure. The residue was acidified with 1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure, whereby the title compound (253 mg, 83%) was obtained as a pale pink solid.

reactant | methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoate | 0.486 mmol, 312 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC1=CC=CC=C1C=C2)COC2=CC=C(C(=O)OC)C=C2 | C39H35N3O6
reactant | NaOH | 0.25N, 20 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-(2-naphthyloxy)-2-pyrrolidinylmethoxy)benzoic acid | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC1=CC=CC=C1C=C2)COC2=CC=C(C(=O)O)C=C2 | C38H33N3O6
